US05473072
treating the 8-[4-[4-(pyrimidine-2-yl)-piperazine-1-yl]-butyl]-8-aza-spiro[4.5]decane-7,9-dione base with hydrogen chloride in ethanol or isopropanol under stirring at a temperature between 15° C. and 40° C. and isolating the 8-[4-[4-(pyrimidine-2-yl)-piperazine-1-yl]-butyl]-8-aza-spiro[4.5]decane-7,9-dione hydrochloride melting at 188°-191° C., or

reactant | 8-[4-[4-(pyrimidine-2-yl)-piperazine-1-yl]-butyl]-8-aza-spiro[4.5]decane-7,9-dione | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(CC2(CCCC2)CC1=O)=O | C21H31N5O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 8-[4-[4-(pyrimidine-2-yl)-piperazine-1-yl]-butyl]-8-aza-spiro[4.5]decane-7,9-dione hydrochloride | Cl.N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(CC2(CCCC2)CC1=O)=O | InChI=1S/C21H31N5O2.ClH/c27-18-16-21(6-1-2-7-21)17-19(28)26(18)11-4-3-10-24-12-14-25(15-13-24)20-22-8-5-9-23-20;/h5,8-9H,1-4,6-7,10-17H2;1H
